US05411977
A mixture of 8.50 g (37.77 mmol) (4-bromophenyl) propiolic acid (S. Chimichi, et. al., J. Heterocyclic Chem. 20, 105 (1983)), 5.39 g (45.32 mmol, 1.2 equivs.) thionyl chloride and 50 mL benzene was stirred and heated at 75° C. for 3 hrs. The reaction was allowed to cool to room temperature and solvent was evaporated. The reaction vessel was charged with 50 mL of fresh benzene and the mixture cooled in an ice bath under an atmosphere of nitrogen. Added next, dropwise in 50 mL benzene, was 7.04 g (75.54 mmol, 2 equivs.) aniline. After addition was complete, the ice bath was removed and the mixture stirred at room temperature overnight. The mixture was poured into 150 mL water and the layers were separated. The aqueous layer was extracted with three 100 mL portions of ethyl acetate. The combined organic layers were then washed sequentially with 100 mL portions of 5% aqueous hydrochloric acid, water, 5 % aqueous sodium carbonate and water. The organic layer was dried, filtered and solvent was evaporated from the filtrate. The resulting solid was recrystallized from absolute ethanol to provide 3.93 g (13.09 mmol, 35%)3-(4-bromophenyl)-N-phenylpropiolamide as a white powder, mp=159°-160.5° C. NMR (CDCl3 /TMS): 7.15 (t, 1H), 7.32-7.40 (m, 4H), 7.49 (d, 2H), 7.57 (d, 2H), 7.80 (bs, 1H). IR (KBr): 3304, 2214, 1638. High resolution mass spectrum: Calculated; 298.994575 (for 79Br isotope). Measured; 298. 994225.

reactant | (4-bromophenyl) propiolic acid | 37.77 mmol, 8.50 g | BrC1=CC=C(C=C1)C#CC(=O)O | C9H5BrO2
reactant | thionyl chloride | 45.32 mmol, 5.39 g | S(=O)(Cl)Cl | Cl2OS
reactant | aniline | 75.54 mmol, 7.04 g | NC1=CC=CC=C1 | C6H7N
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 3-(4-bromophenyl)-N-phenylpropiolamide | 13.09 mmol, 3.93 g, 35% | BrC1=CC=C(C=C1)C#CC(=O)NC1=CC=CC=C1 | C15H10BrNO
